US05665718
0.94 g (2.5 mmol) of (S)-8-chloro-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one was stirred at room temperature overnight with 2 g (27 mmol) of tert.-butylamine and 15 ml of N,N-dimethylformamide. By evaporation of the reaction mixture and chromatography of the residue on silica gel while eluting with ethyl acetate/methanol 9/1 there was obtained 0.91 g (88%) of (S)-1-(5-tert.-butylamino-methyl-1,2,4-oxadiazol-3-yl)-8-chloro-12,12a-dihydro-9H,11H-azeto[2,1-c]-imidazo[1,5-a][1,4]benzodiazepin-9-one, which was converted into the hydrochloride (amorphous).

reactant | (S)-8-chloro-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 2.5 mmol, 0.94 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C3=NOC(=N3)CCl)CC1)=O | C16H11Cl2N5O2
reactant | tert.-butylamine | 27 mmol, 2 g | C(C)(C)(C)N | C4H11N
reactant | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | (S)-1-(5-tert.-butylamino-methyl-1,2,4-oxadiazol-3-yl)-8-chloro-12,12a-dihydro-9H,11H-azeto[2,1-c]-imidazo[1,5-a][1,4]benzodiazepin-9-one | 0.91 g, 88% | C(C)(C)(C)NC1=NC(N(O1)C)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3Cl)=O)CC1 | C20H23ClN6O2
